US04237136
17.6 g of 2-amino-4-phenylthiazole are dissolved in 100 ml of tetrahydrofuran, the resulting solution is cooled to approximately 15° C. and 17.5 g of acetylene dicarboxylic acid diethyl ester are slowly added to it with stirring at that temperature. The mixture is left standing for 3 days, after which the crystals formed are filtered off the quantity of which was increased by concentrating the mother liquor to approximately half its original volume and recrystallized from ethanol. 3-Phenyl-7H-thiazolo-[3,2-a]-pyrimidin-7-one-5-carboxylic acid ethyl ester is thus obtained in a yield of 16.9 g, corresponding to 56.3% of the theoretical.

reactant | 2-amino-4-phenylthiazole | 17.6 g | NC=1SC=C(N1)C1=CC=CC=C1 | C9H8N2S
reactant | acetylene dicarboxylic acid diethyl ester | 17.5 g | C(C)OC(=O)C#CC(=O)OCC | C8H10O4
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 3-Phenyl-7H-thiazolo-[3,2-a]-pyrimidin-7-one-5-carboxylic acid ethyl ester | C(C)OC(=O)C1=CC(N=C2N1C(=CS2)C2=CC=CC=C2)=O | C15H12N2O3S
